US06417212B1
A solution of 2-(3-bromophenyl)-5-methyl-4-oxazoleacetic acid (39.1 g, 0.13 mol) in dry THF (175 mL) was treated dropwise with borane-THF complex (227 mL of a 1.0 M solution in THF, 1.3 mol) over 2 h (reaction temperature to 35° C.). After stirring 2 h at room temperature under N2, the reaction was quenched with slow addition of methanol (60 mL) and stirred overnight at room temperature. The reaction was diluted with 1 N NaOH (50 mL) and extracted with CH2Cl2 (2×200 mL). The organic layer was washed with H2O (3×100 mL), dried (MgSO4), and the solvent removed in vacuo to give 38.7 g of crude product that was recrystallized from toluene (200 mL, wash solid with cold hexanes) to give 26.9 g (72%) of 2-(3-bromophenyl)-5-methyl-4-oxazoleethanol as a white powder. Mp 92-93° C.; 1H NMR (300 MHz, d6-DMSO) δ7.99 (s, 1H), 7.88 (d, J=7.7 Hz, 1H), 7.64 (d, J=7.7 Hz, 1H), 7.44 (t, J=7.7 Hz, 1H), 4.61 (t, J=5.5 Hz, OH), 3.63 (q, J=5.5 Hz, 2H), 2.60 (t, J=6.6 Hz, 2H), 2.32 (s, 3H).

reactant | 2-(3-bromophenyl)-5-methyl-4-oxazoleacetic acid | 0.13 mol, 39.1 g | BrC=1C=C(C=CC1)C=1OC(=C(N1)CC(=O)O)C | C12H10BrNO3
solvent | THF | 175 mL | C1CCOC1 | C4H8O
product | 2-(3-bromophenyl)-5-methyl-4-oxazoleethanol | 26.9 g, 72% | BrC=1C=C(C=CC1)C=1OC(=C(N1)CCO)C | C12H12BrNO2
